spice
* Differential Amplifier Circuit
VCC 33 0 DC 5V
* Resistors
? Missing component
RC2 1 33 1k
* Current source
I_EE 3 0 DC 1mA
* Transistors
Q1 3 2 3 NPN
Q2 1 2 3 NPN
* Inputs
Vin1 2 0 DC 0V
Vin2 2 0 DC 0V
.END
